US04632694
Preparation of 4-Amino-6-(1,1-dimethylethyl)-3-(isopropylamino)-1,2,4-triazine-5-(4H)-one
A mixture of 20 g of technical metribuzin in 75 ml water and 28 ml isopropylamine was refluxed with stirring for 72 hours. The reactants were cooled and the solid product was isolated by filtration and drying. The m.p. was 158° and the structure was confirmed by elemental analysis and NMR analysis.

reactant | metribuzin | 20 g | CC(C)(C)C1=NN=C(N(C1=O)N)SC | C8H14N4OS
solvent | water | 75 ml | O | H2O
solvent | isopropylamine | 28 ml | C(C)(C)N | C3H9N
product | 4-Amino-6-(1,1-dimethylethyl)-3-(isopropylamino)-1,2,4-triazine-5-(4H)-one | NN1C(=NN=C(C1=O)C(C)(C)C)NC(C)C | C10H19N5O
